US05744606
62.3 g (492 mmol) of benzyl chloride was added dropwise over 30 minutes to 61.6 g (492 mmol) of 3-quinuclidinone in 250 ml of acetonitrile and the suspension formed was filtered through a frit after 2 hours at 25° C. Washing with acetonitrile (2×100 ml) and drying gave 115.0 g (93 percent) of 1-benzyl-3-oxoquinuclidinium chloride in the form of white crystalline solid. Other data concerning the product was: ##EQU3##

reactant | benzyl chloride | 492 mmol, 62.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 3-quinuclidinone | 492 mmol | N12CC(C(CC1)CC2)=O | C7H11NO
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-benzyl-3-oxoquinuclidinium chloride | 115.0 g, 93 percent | [Cl-].C(C1=CC=CC=C1)[N+]12CC(C(CC1)CC2)=O | InChI=1S/C14H18NO.ClH/c16-14-11-15(8-6-13(14)7-9-15)10-12-4-2-1-3-5-12;/h1-5,13H,6-11H2;1H/q+1;/p-1
